US08278482B2
(2-(Benzyloxycarbonylamino)-2-methylpropyl)dimethylsulfonium iodide
To a 15 mL pressure tube was added a solution of benzyl 2-methyl-1-(methylthio)propan-2-ylcarbamate in absolute ethanol (0.5 mL, 6.8 M) (1.00 g, 3.9 mmol) and methyl iodide (1.23 mL, 5 equiv, 19.7 mmol). The reaction mixture was covered with aluminum foil and left to stir for 3 days. The light yellow suspension was filtered and washed with diethyl ether (20 mL). The mother liquor was concentrated to a deep yellow solid. This solid was recrystallized from isopropyl alcohol and diethyl ether and combined with the first crop of product 1.29 g (83.6%). 1H NMR (D2O, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H). LRMS (ESI−) for C14H22NO2S+ (268.1); Found: 268 (M+).

reactant | benzyl 2-methyl-1-(methylthio)propan-2-ylcarbamate | CC(CSC)(C)NC(OCC1=CC=CC=C1)=O | C13H19NO2S
reactant | ethanol | 3.9 mmol, 6.8 M, 0.5 mL, 1.00 g | C(C)O | C2H6O
reactant | methyl iodide | 19.7 mmol, 1.23 mL, 5 equiv | CI | CH3I
reactant | aluminum | [Al] | Al
product | (2-(Benzyloxycarbonylamino)-2-methylpropyl)dimethylsulfonium iodide | [I-].C(C1=CC=CC=C1)OC(=O)NC(C[S+](C)C)(C)C | InChI=1S/C14H21NO2S.HI/c1-14(2,11-18(3)4)15-13(16)17-10-12-8-6-5-7-9-12;/h5-9H,10-11H2,1-4H3;1H
